US06103910
440 mg (0.87 mmol) (R)-1-[5-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-5-oxo-pentanoyl]-pyrrolidine-2-carboxylic acid benzyl ester in 100 ml ethanol were hydrogenated in the presence of 40 mg 5% Pd on carbon. Filtration and evaporation of the solvent yielded 130 mg (46%) (R)-1-[5-[(R)-2-carboxy-pyrrolidin-1-yl]-5-oxo-pentanoyl]-pyrrolidine-2-carboxylic acid as colorless oil. MS-ISP: 327 (M+H)+.

reactant | (R)-1-[5-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-5-oxo-pentanoyl]-pyrrolidine-2-carboxylic acid benzyl ester | 0.87 mmol, 440 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCCC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C29H34N2O6
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 40 mg | [Pd] | Pd
product | (R)-1-[5-[(R)-2-carboxy-pyrrolidin-1-yl]-5-oxo-pentanoyl]-pyrrolidine-2-carboxylic acid | 130 mg, 46% | C(=O)(O)[C@@H]1N(CCC1)C(CCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C15H22N2O6
